Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:7]1([C:6](=[C:5])[H:16])[H:17])([H:8])([H:9])[H:10],75.86990310327859
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([N:4]([O-:6])[H:12])=[C+:5][C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],122.551782309174
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N:1]([C+:5]([N-:4][N:3]=[C:2]=[O:7])[N:6]([H:10])[H:11])([H:8])[H:9],40.10031926568429
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])/[C:4]1=[C:5](\[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7],11.179677421556505
[C:1]([C:2]1=[C:3]([H:11])[N:4]([H:12])/[C:5]1=[N:7]\[O:6][H:13])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4]([H:12])[c:5]([O:6][H:13])[n:7]1)([H:8])([H:9])[H:10],64.91296241890042
[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:8])([H:9])[H:10].[C:2](=[O:3])([H:11])[H:12],84.0525766555591
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C-:4]=[O+:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10].[H:14][H:15]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10],14.436658002802005
[C-:5]#[O+:6].[H:10][H:12].[O:1]([C:2]1([H:8])[C:3]([H:9])=[C:4]1[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7],27.270781838162087
[O:1]([N:6]=[C:5]=[C:4]=[C:3]=[C:2]([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7],65.5446400929255
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C-:1]#[C:2][C+:3]=[C:4]([C:5](=[C:6]([O:7][H:8])[H:11])[H:10])[H:9],101.331091586705
[C:1]([C:2]([C-:3]=[C:4]1[C+:5]=[C:6]1[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],3.4037165796408004
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]/[C:3](=[C:4](\[C:5]([H:11])([H:12])[H:13])[H:10])[C:6]([H:14])([H:15])[H:16])([H:7])([H:8])[H:9],76.3491137922392
[O:1](/[C:2](=[C:3](\[O:4][H:7])[H:9])[H:8])[C:5]#[N:6]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7],44.164863833963494
[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C+:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C-:5]=[C:6]([H:16])[C@@:7]12[H:17].[C:1]([H:8])([H:9])([H:10])[H:15],130.014555225928
[H:7][H:8].[O:1]=[C:2]1[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],69.4087496726157
[C:1]([C:2]([C@@:3]1([H:12])[C:5]([O:4][H:13])=[C:6]1[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],58.03414981791481
[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[O:5][H:15])([H:9])[H:10])([H:6])([H:7])[H:8].[H:11][H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],76.98602788486829
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[C:5](=[O:6])([H:10])[H:11].[N:1]#[C:2][C:3](=[C:4]([H:8])[H:9])[H:7],51.01969078624129
[C:3](=[O:4])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:10].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],29.5026469918814
[O:1]([C:3]1=[C:4]([H:9])[C@:2]1([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],64.88481945193064
[C:1]([O:2][C:3](/[C:4](=[C:5](\[O:6][H:16])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[H:13][H:14]>>[C:1]([O:2][C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],73.0369975850067
[N:1](/[C:2](=[N:3]\[H:8])[H:7])([N+:5]#[C-:4])[H:6]>>[n:1]1([H:6])[c:2]([H:7])[n:3][c:4]([H:8])[n:5]1,26.585553556843585
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:6]1=[C:7]([H:15])[O:5]/[C:4]1=[C:2](\[C:3]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],120.10708093470501
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[C:6][H:12])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:5](=[C-:6][H:12])[C+:4]1[H:11])[H:7],58.9008274990377
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8]>>[C-:4]#[O+:5].[N:1]([C:2](=[O:3])[C:6]#[N:7])([H:8])[H:9],38.065127454664896
[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9]>>[N:1]([C:2]1=[N:3][N:7]1[H:10])([H:8])[H:9].[O:4]=[C:5]=[O:6],63.810721511581896
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1]#[C:2][C:3]1=[N:7][C@@:4]1([N:5]([N:6])[H:9])[H:8],100.877828930929
